US08445509B2
Production of N-{6-[(6-aminopyridin-3-yl)oxy]imidazo[1,2-a]pyridin-2-yl}cyclopropanecarboxamide
A mixed solution of N-{6-[(6-nitropyridin-3-yl)oxy]imidazo[1,2-a]pyridin-2-yl}cyclopropanecarboxamide (184 mg, 0.542 mmol), reduced iron (173 mg, 2.95 mmol) and ammonium chloride (315 mg, 5.89 mmol) in ethanol (2 mL) and water (0.5 mL) was stirred at 80° C. for 1 hr. The reaction mixture was diluted with ethyl acetate, and filtered through celite. Water was added to the filtrate, and the mixture was extracted twice with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and filtered. The solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (ethyl acetate-÷ethyl acetate/methanol=95/5) to give the title compound (75 mg, 45%) as a yellow solid.

reactant | N-{6-[(6-nitropyridin-3-yl)oxy]imidazo[1,2-a]pyridin-2-yl}cyclopropanecarboxamide | 0.542 mmol, 184 mg | [N+](=O)([O-])C1=CC=C(C=N1)OC=1C=CC=2N(C1)C=C(N2)NC(=O)C2CC2 | C16H13N5O4
reactant | ammonium chloride | 5.89 mmol, 315 mg | [Cl-].[NH4+]
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | water | 0.5 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-{6-[(6-aminopyridin-3-yl)oxy]imidazo[1,2-a]pyridin-2-yl}cyclopropanecarboxamide | 75 mg, 45% | NC1=CC=C(C=N1)OC=1C=CC=2N(C1)C=C(N2)NC(=O)C2CC2 | C16H15N5O2
